US06451810B1
Using the general method of Example 18, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.96 mmol) was coupled with 6-quinolinecarboxylic acid (0.34 g, 1.96 mmol) to provide 0.08 g of N6-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-quinolinecarboxamide as a tan powder, m.p. 122-127° C. (foaming). 1H NMR (300 MHz, DMSO-d6) δ8.98 (m, 1H), 8.73 (t, J=5.4 Hz, 1H), 8.43 (m, 2H), 8.23 (s, 1H), 8.13-8.03 (m, 3H), 7.60 (m, 2H), 7.40 (m, 1H), 7.20 (m, 1H), 6.58 (broad s, 2H), 4.66 (t, J=6.7 Hz, 2H), 3.37 (m, 2H), 1.96 (m, 2H), 1.64 (m, 2H); MS (EI) m/e 410.1847 (410.1855 calcd for C24H22N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.96 mmol, 0.5 g | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 6-quinolinecarboxylic acid | 1.96 mmol, 0.34 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
product | N6-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-quinolinecarboxamide | 0.08 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)C=2C=C1C=CC=NC1=CC2 | C24H22N6O
